US07723333B2
2-tert-Butyl-4-{[3-(2-fluorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 12 from 2-fluorophenol and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate with a reaction time of 15 mins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using 15% EtOAc in petroleum ether 40-60° C. as eluent then dissolved in EtOAc. The product containing fractions were evaporated and the residue was washed with aqueous K2CO3 (2M) and evaporated to give the title compound (0.063 g, 62%). 1H NMR (500 MHz CDCl3): δ 7.54-7.50 (m, 2H), 7.45-7.40 (m, 3H), 7.11-7.03 (m, 2H), 6.94-6.85 (m, 2H), 5.57 (t, 1H), 3.91 (t, 2H), 3.15-3.10 (m, 2H), 1.90-1.82 (m, 2H), 1.74 (s, 9H); 13C NMR (125 MHz CDCl3): δ 159.8, 153.9, 152.0, 146.8, 146.7, 135.3, 131.8, 129.8, 128.8, 125.2, 124.6, 124.5, 121.9, 121.8, 116.6, 116.5, 115.5, 107.4, 67.2, 61.7, 41.7, 29.2, 27.8. Mass Spectrum M+H+ 433.

reactant | 2-fluorophenol | FC1=C(C=CC=C1)O | C6H5FO
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | 2-tert-Butyl-4-{[3-(2-fluorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.063 g, 62% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=C(C=CC=C1)F)C1=CC=CC=C1)(=O)=O | C22H25FN2O4S
